US07183306B2
5-[4-(Benzyloxy)phenyl]-1-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-3-amine
Sodium (3.19 g) was added portionwise to ethanol (160 ml) After all sodium was dissolved, 4-methoxyphenylhydrazine hydrochloride (14.5 g) was added in one portion to the solution. The mixture was stirred at room temperature for 10 min. To this mixture was added 3-(4-benzyloxyphenyl)acrylonitrile (16.3 g) in one portion, and the mixture was refluxed for 3 days.

reactant | Sodium | 3.19 g | [Na] | Na
reactant | 4-methoxyphenylhydrazine hydrochloride | 14.5 g | Cl.COC1=CC=C(C=C1)NN
reactant | 3-(4-benzyloxyphenyl)acrylonitrile | 16.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC#N | C16H13NO
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 5-[4-(Benzyloxy)phenyl]-1-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-3-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1CC(=NN1C1=CC=C(C=C1)OC)N | C23H23N3O2
